US05223520
N-(2-Chloropyrid-5-ylmethyl)-N-methyl-N'-(N,N-dimethylaminomethylene)-N"-nitroguanidine (Table 1, compound no. 1.001).
Variant a): 1.5 g of N,N-dimethylformamide-diethyl-acetal are added to 2.43 g of N-(2-chloropyrid-5-ylmethyl)-N-methyl-N'-nitroguanidine in 75 ml of dioxane. The mixture is heated at 130° C. for 45 minutes and is then freed of solvent using a rotary evaporator. The crude product is chromatographed over silica gel using first ethyl acetate and then ethyl acetate/ethanol (5:1). A viscous oil is formed which, after the addition of hexane, yields crystals of the desired product (m.p.: 85°-89° C.).

reactant | N,N-dimethylformamide-diethyl-acetal | 1.5 g | C(C)OC(N(C)C)OCC | C7H17NO2
reactant | N-(2-chloropyrid-5-ylmethyl)-N-methyl-N'-nitroguanidine | 2.43 g | ClC1=NC=C(C=C1)CN(C(=N)N[N+](=O)[O-])C | C8H10ClN5O2
reactant | hexane | CCCCCC | C6H14
solvent | dioxane | 75 ml | O1CCOCC1 | C4H8O2
product | N-(2-Chloropyrid-5-ylmethyl)-N-methyl-N'-(N,N-dimethylaminomethylene)-N"-nitroguanidine | ClC1=NC=C(C=C1)CN(C(=N[N+](=O)[O-])N=CN(C)C)C | C11H15ClN6O2
